### PR TITLE
[Merged by Bors] - refactor(RingTheory/Ideal/AssociatedPrime/Basic): redefine associated primes to include a radical

### PR DESCRIPTION
**Pull request by tb65536**
This PR redefines associated primes from
`I.IsPrime ∧ ∃ x : M, I = colon ⊥ {x}`
to
`I.IsPrime ∧ ∃ x : M, I = (colon ⊥ {x}).radical`.
This new definition is slightly nonstandard but is the correct definition in the non-Noetherian setting because these are exactly the prime ideals of any minimal primary decomposition. I.e., one can prove the following theorem (see the change to `Lasker.lean`):
```
lemma IsMinimalPrimaryDecomposition.image_radical_eq_associated_primes
    {R M : Type*} [CommSemiring R] [AddCommMonoid M] [Module R M] [DecidableEq (Submodule R M)]
    {I : Submodule R M} {t : Finset (Submodule R M)} (ht : I.IsMinimalPrimaryDecomposition t) :
    (fun J ↦ (J.colon Set.univ).radical) '' t = I.associatedPrimes :=
```

I also added a new definition `N.IsAssociatedPrime := I.IsPrime ∧ ∃ x : M, I = (colon N {x}).radical` for submodules because that's actually the definition needed for the above theorem (you can't write `associatedPrimes R (M ⧸ N)` when `M` is only an `AddCommMonoid`). And also the proof that the radical doesn't matter when the ring is Noetherian generalizes to this case.

---

- [x] depends on: #34226
- [x] depends on: #34255

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Basic.lean [hunk 1]
```diff
@@ -29,23 +28,69 @@ We provide the definition and related lemmas about associated primes of modules.
...
 section Semiring
 
 variable {R : Type*} [CommSemiring R] (I J : Ideal R) (M : Type*) [AddCommMonoid M] [Module R M]
 
-/-- `IsAssociatedPrime I M` if the prime ideal `I` is the annihilator of some `x : M`. -/
+/-- `IsAssociatedPrime I M` if the prime ideal `I` is the radical of the annihilator
+of some `x : M`. -/
 def IsAssociatedPrime : Prop :=
-  I.IsPrime ∧ ∃ x : M, I = (⊥ : Submodule R M).colon {x}
+  I.IsPrime ∧ ∃ x : M, I = (colon ⊥ {x}).radical
```
Comment (chrisflav) [inline Mathlib/RingTheory/Ideal/AssociatedPrime/Basic.lean]: Should this be defined as `(⊥: Submodule R M).IsAssociatedPrime I`?

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Basic.lean [hunk 2]
```diff
@@ -54,15 +99,20 @@ def associatedPrimes : Set (Ideal R) :=
 
 variable {I J M} {M' : Type*} [AddCommMonoid M'] [Module R M'] (f : M →ₗ[R] M')
 
-theorem AssociatePrimes.mem_iff : I ∈ associatedPrimes R M ↔ IsAssociatedPrime I M := Iff.rfl
+theorem AssociatedPrimes.mem_iff : I ∈ associatedPrimes R M ↔ IsAssociatedPrime I M := Iff.rfl
```
Comment (chrisflav) [inline Mathlib/RingTheory/Ideal/AssociatedPrime/Basic.lean:106]: Could you please add a deprecation?

File: Mathlib/RingTheory/Lasker.lean [hunk 3]
```diff
@@ -119,21 +115,19 @@ lemma IsLasker.exists_isMinimalPrimaryDecomposition [DecidableEq (Submodule R M)
...
 In any minimal primary decomposition `I = ⨅ i, q_i`, the ideals `radical (q_i.colon M)` are exactly
 the associated primes of `I`. -/
-lemma IsMinimalPrimaryDecomposition.mem_image_radical_colon_iff [DecidableEq (Submodule R M)]
-    {N : Submodule R M} {t : Finset (Submodule R M)} (ht : IsMinimalPrimaryDecomposition N t)
-    {p : Ideal R} :
-    p ∈ (fun J : Submodule R M ↦ radical (J.colon .univ)) '' t ↔
-      IsPrime p ∧ ∃ x : M, p = radical (N.colon {x}) := by
+lemma IsMinimalPrimaryDecomposition.image_radical_eq_associated_primes [DecidableEq (Submodule R M)]
+    {N : Submodule R M} {t : Finset (Submodule R M)} (ht : IsMinimalPrimaryDecomposition N t) :
+    (fun J : (Submodule R M) ↦ (J.colon Set.univ).radical) '' t = N.associatedPrimes := by
```
Comment (chrisflav) [inline Mathlib/RingTheory/Lasker.lean]:
```suggestion
    (fun J : Submodule R M ↦ (J.colon Set.univ).radical) '' t = N.associatedPrimes := by
```

File: Mathlib/RingTheory/Lasker.lean [hunk 4]
```diff
@@ -147,6 +141,10 @@ lemma IsMinimalPrimaryDecomposition.mem_image_radical_colon_iff [DecidableEq (Su
     obtain ⟨q, hq1, hq2⟩ := eq_inf_of_isPrime_inf hp
     exact ⟨q, Finset.mem_of_mem_filter q hq1, hq2⟩
 
+@[deprecated (since := "2026-01-19")]
+alias IsMinimalPrimaryDecomposition.mem_image_radical_colon_iff :=
```
Comment (chrisflav) [inline Mathlib/RingTheory/Lasker.lean:145]: Could you please also update the module docstring?

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Basic.lean [hunk 5]
```diff
@@ -29,23 +28,69 @@ We provide the definition and related lemmas about associated primes of modules.
 - `associatedPrimes.eq_singleton_of_isPrimary`: In a Noetherian ring, `I.radical` is the only
   associated prime of `R ⧸ I` when `I` is primary.
 
+## Implementation details
+
+The presence of the radical in the definition of `IsAssociatedPrime` is slightly nonstandard but
+gives the correct characterization of the prime ideals of any minimal primary decomposition in the
+non-Noetherian setting (see Theorem 4.5 in Atiyah-Macdonald). If the ring `R` is assumed to be
+Noetherian, then the radical can be dropped from the definition (see `isAssociatedPrime_iff`).
```
Comment (chrisflav) [inline Mathlib/RingTheory/Ideal/AssociatedPrime/Basic.lean:36]: The stacks project defines "weakly associated primes" as prime ideals that are minimal among the primes containing the annihilator of some `x : M`. Interestingly, [0566](https://stacks.math.columbia.edu/tag/0566) shows that a prime p is a "weakly associated prime" if and only if `p R_p` is an associated prime of `M_p` in the way you define it here.
So maybe this gives a second motivation for this definition.

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Basic.lean [hunk 6]
```diff
@@ -29,23 +28,69 @@ We provide the definition and related lemmas about associated primes of modules.
...
+protected def associatedPrimes : Set (Ideal R) :=
+  { I | N.IsAssociatedPrime I }
+
+variable {N I}
+
+protected theorem isAssociatedPrime_def :
+    N.IsAssociatedPrime I ↔ I.IsPrime ∧ ∃ x, I = (colon N {x}).radical :=
+  .rfl
+
+protected theorem isAssociatedPrime_iff [h : IsNoetherianRing R] :
```
Comment (chrisflav) [inline Mathlib/RingTheory/Ideal/AssociatedPrime/Basic.lean]:
```suggestion
protected theorem isAssociatedPrime_iff [IsNoetherianRing R] :
```

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Basic.lean [hunk 7]
```diff
@@ -76,22 +126,25 @@ theorem not_isAssociatedPrime_of_subsingleton [Subsingleton M] : ¬IsAssociatedP
 
 variable (R) in
 theorem exists_le_isAssociatedPrime_of_isNoetherianRing [H : IsNoetherianRing R] (x : M)
-    (hx : x ≠ 0) : ∃ P : Ideal R, IsAssociatedPrime P M ∧ (⊥ : Submodule R M).colon {x} ≤ P := by
+    (hx : x ≠ 0) : ∃ P : Ideal R, IsAssociatedPrime P M ∧ (colon ⊥ {x}).radical ≤ P := by
```
Comment (chrisflav) [inline Mathlib/RingTheory/Ideal/AssociatedPrime/Basic.lean]: This does not really buy you much given that prime ideals are radical. Why did you change it?

Comment (tb65536) [reply Mathlib/RingTheory/Ideal/AssociatedPrime/Basic.lean]: Oops, good catch.

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Basic.lean [hunk 8]
```diff
@@ -180,15 +240,15 @@ theorem IsAssociatedPrime.annihilator_le (h : IsAssociatedPrime I M) :
...
-  exact annihilator_mono le_top
+  exact (annihilator_mono le_top).trans Ideal.le_radical
 
 end Semiring
 
 variable {R : Type*} [CommRing R] (I J : Ideal R) (M : Type*) [AddCommGroup M] [Module R M]
 
-theorem isAssociatedPrime_iff_exists_injective_linearMap :
+theorem isAssociatedPrime_iff_exists_injective_linearMap [IsNoetherianRing R] :
     IsAssociatedPrime I M ↔ I.IsPrime ∧ ∃ (f : R ⧸ I →ₗ[R] M), Function.Injective f := by
```
Comment (chrisflav) [inline Mathlib/RingTheory/Ideal/AssociatedPrime/Basic.lean:254]: Just a note for other reviewers: This seems to be the only "regression" of the new definition, but this lemma is used nowhere anyways.

**Review by chrisflav — APPROVED** [review]
Thanks!
maintainer merge

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Basic.lean (hunk 5 above)
Comment (tb65536) [reply Mathlib/RingTheory/Ideal/AssociatedPrime/Basic.lean:36]: Oh, nice! I've added a line to the module docstring.
